2135-10-25 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    - Neurology movement disorder team related that patient did well with
   dilaudid PCA, however when switched to appropriate corresponding PO
   long acting regimen, became hypercarbic during last admission.
   - Pain service recommended dilaudid PCA--per patient, pain control much
   improved.
   Allergies:
   Iodine; Iodine Containing
   Unknown; Anaphy
   Last dose of Antibiotics:
   Vancomycin - [**2135-10-24**] 08:30 PM
   Piperacillin - [**2135-10-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2135-10-24**] 01:18 PM
   Pantoprazole (Protonix) - [**2135-10-24**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-10-25**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 57 (55 - 89) bpm
   BP: 87/46(55) {87/46(55) - 134/74(87)} mmHg
   RR: 19 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: -1 (-6 - 6)mmHg
   Total In:
                                                                  2,052 mL
                                                                    432 mL
   PO:
   TF:
                                                                    152 mL
                                                                    262 mL
   IVF:
                                                                  1,720 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,730 mL
                                                                    440 mL
   Urine:
                                                                  3,730 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,678 mL
                                                                     -8 mL
   Respiratory support
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: right laterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, no erythema around
   PEG tube
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, Rash: abdomen, chest, face
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): AOx3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   226 K/uL
   9.4 g/dL
   116 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   14 mg/dL
   102 mEq/L
   138 mEq/L
   26.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2135-10-23**]  04:45 PM
                             [**2135-10-24**]  04:18 AM
                             [**2135-10-25**]  04:23 AM
   WBC
   7.1
   7.3
   Hct
   25.2
   26.8
   Plt
   168
   226
   Cr
   0.6
   0.5
   0.5
   Glucose
   91
   116
   Other labs: PT / PTT / INR:39.1/43.3/4.2, ALT / AST:19/16, Alk Phos / T
   Bili:68/, Lactic Acid:1.0 mmol/L, Albumin:3.1 g/dL, Ca++:8.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Microbiology: Blood cultures and urine culture all negative to date
   Sputum culture not sent.
   Assessment and Plan
   Pt is a 51 y/o M with stiff person syndome here with fevers, likely
   from HAP vs Aspiration PNA and possible sepsis.
   Fever/PNA/Leukocytosis: CXR shows RML/RLL PNA. HAP vs aspiration. He
   was just advanced to regular diet earlier this week, so aspiration is
   possibility; patient also has poor cough reflex, making it difficult to
   clear secretions, etc. Patient hypotensive to 80's-90s in the ED Per
   last discharge summary, his baseline 80-110s, considering septic
   picture. Also keeping in mind Drug withdrawal considering he is on
   chronic narcotics and benzos.
   - Broad coverage for HAP with [**Doctor Last Name **]/Zosyn for now
   - improving on this so will hold off double covering gram negatives
   - Sputum culture -- although at this point he will have been on abx for
   several days
   - stool for C diff
   - f/u blood cultures, urine culture
   - Will try to wake up patient if hpyotensive, if that doesn
t work can
   bolus him
    Hypotension: per last discharge summary, baseline is systolics 80-110.
   Per HCP report, SBPs have been 110-120s. got 5L NS in the ED, was 120s
   on arrival to floor. Considering sepsis, hypovolemia, autonomic
   dysfunction. Patient has been normal tensive for >24 hours. He did not
   require a bolus yesterday. CVPs have been low, but patient is making
   vigorous urine all throughout hospitalization, indicating that
   hypotension is likely autonomic and not from sepsis
   - wake up vs bolus NS for hypotension
   Bradycardia: Patient had 2 episodes of bradycardia, one in the ED, one
   upon arriving the the ICU. Autonomic instabilty is symptom of stiffman,
   so this may be a function of that. These episodes resolved on their
   own. Patient asymptomatic.
   - Atropine at bedside
   - monitor for now
   - would consider pacing or temp wire, but patient is DNR/DNI
    Stiff Person Syndrome: Patient denies current exacerbation, can move
   extremities. Home dose oxycontin 160mg AM and 200mg PM.
   - Dilauded PCA, cannot take POs right now. Per Neurology tends to
   become somnelent with too much narcotics. Will switch to oxycontin when
   tolerating POs
   - Dizepam 20mg every 4 hours
   - let Movement Disorders Neuro input appreciated
   - Pain consult appreciated: Dilauded PCA
    DVT: diagnosed [**10-3**]. On coumadin. Considered PE, INR 4.2. Resolving
   DVT on u/s
   - will hold coumadin today. INR high in setting of antibiotics.
    Rash:  Contact derm vs stiffman vs drug rash.
   - monitor
    Nausea/vomitting: resolved
    Hx of GI Bleed: continue PPI [**Hospital1 **]
    Anemia: hct 29,which is baseline.
    FEN: NPO for now, tube feed recs.  Speech consult called. Patient does
   not feel comfortable eating just yet. Generally, he can tell when he is
   ready, and that is usually after 2 days. When he is ready to try, we
   call swallow team again.
    Ppx: coumadin, bowel reg
   CODE: DNR/DNI
   Contact: [**Name (NI) 892**] health care proxy. [**Telephone/Fax (1) 893**].
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2135-10-24**] 05:25 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2135-10-23**] 06:00 PM
   Indwelling Port (PortaCath) - [**2135-10-23**] 06:42 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor